US07241887B2
8-(3-Methanesulfonylamino-phenyl)-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester
8-(3-Amino-phenyl)-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester (185 mg, 0.55 mmol) was dissolved in pyridine (3 mL), cooled to 0° C. then charged with methanesulfonylchloride (0.064 mL, 0.825 mmol) dropwise, causing a color change from yellow to bright orange. The reaction was warmed to room temperature and judged complete by APCI MS after 1 h. Following a 1N HCl quench (10 mL), the product was extracted with EtOAc (2×30 mL), washed with saturated aqueous NaHCO3 solution (1×30 mL), saturated aqueous NaCl solution (1×30 mL), dried over Na2SO4, filtered and concentrated to give an orange liquid (153 mg, 67%). (TLC 30% EtOAc/hexanes Rf 0.15); 1H NMR (400 MHz, CDCl3) δ 7.33–7.19 (m, 5H), 7.21 (t, J=7.9 Hz, 1H), 7.14 (s, 1H), 7.05 (d, J=7.9 Hz, 1H), 6.99 (d, J=7.9 Hz, 1H), 5.24 (s, 2H), 4.03 (d, J=12.5 Hz, 1H), 3.94 (d, J=12.6 Hz, 1H), 3.07 (d, J=12.5 Hz, 1H), 3.03 (d, J=12.5 Hz, 1H), 2.90 (s, 3H), 2.86 (s, 1H), 2.50 (br s, 1H), 2.44 (br s, 1H), 1.60 (m, 2H), 1.47 (m, 2H); APCI MS m/z 415.1 (M+1)+.

reactant | 8-(3-Amino-phenyl)-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester | 0.55 mmol, 185 mg | C(C1=CC=CC=C1)OC(=O)N1CC2CCC(C1)C2C2=CC(=CC=C2)N | C21H24N2O2
reactant | methanesulfonylchloride | 0.825 mmol, 0.064 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1N | Cl | ClH
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 8-(3-Methanesulfonylamino-phenyl)-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester | 153 mg, 67% | C(C1=CC=CC=C1)OC(=O)N1CC2CCC(C1)C2C2=CC(=CC=C2)NS(=O)(=O)C | C22H26N2O4S
